US06911443B2
To 7-(3,4-Dimethoxy-phenyl)-5-ethylsulfanyl-imidazo[1,2-c]pyrimidine (1.1 g, 3.5 mmol) in CH2Cl2 (25 ml) at 0° C., was added dropwise 1M solution of BBr3 in CH2Cl2 (25 ml, 25.0 mmol). The reaction mixture was stirred at 0° C. for 15 min and then at room temperature overnight. The mixture was then cooled using ice bath and ice-water was added, the precipitate was collected by filtration and then suspended in CH2Cl2 to give 4-(5-Ethylsulfanyl-imidazo[1,2-c]pyrimidin-7-yl)-benzene-1,2-diol. (875 mg, 87%)

reactant | 7-(3,4-Dimethoxy-phenyl)-5-ethylsulfanyl-imidazo[1,2-c]pyrimidine | 3.5 mmol, 1.1 g | COC=1C=C(C=CC1OC)C1=CC=2N(C(=N1)SCC)C=CN2 | C16H17N3O2S
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25.0 mmol, 25 ml | C(Cl)Cl | CH2Cl2
product | 4-(5-Ethylsulfanyl-imidazo[1,2-c]pyrimidin-7-yl)-benzene-1,2-diol | C(C)SC1=NC(=CC=2N1C=CN2)C=2C=C(C(=CC2)O)O | C14H13N3O2S
